US06743789B2
4-(Aminomethyl)-3-cyclopropyl-1,2,4-oxadiazole
N-[(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)methyl]phthalimide (104 g, 387 mmol) was dissolved in 1,2-dichloroethane (500 mL), N-methylhydrazine (22.4 mL, 426 mmol) was added and the solution was refluxed for 5 h. The suspension was cooled in ice, the precipitate (2-methyl-2,3-dihydro-phthalazine-1,4-dione) was filtered off and washed with 1,2-dichloroethane (100 mL). The filtrate was evaporated and the residue distilled at 70° C./0.4 mbar (bath-T 100-150° C). Yield: 39.3 g (73%). m/z 139 (M).

reactant | N-[(3-Cyclopropyl-1,2,4-oxadiazol-5-yl)methyl]phthalimide | 387 mmol, 104 g | C1(CC1)C1=NOC(=N1)CN1C(C=2C(C1=O)=CC=CC2)=O | C14H11N3O3
reactant | N-methylhydrazine | 426 mmol, 22.4 mL | CNN | CH6N2
solvent | 1,2-dichloroethane | 500 mL | ClCCCl | C2H4Cl2
product | 4-(Aminomethyl)-3-cyclopropyl-1,2,4-oxadiazole | NCN1C(=NOC1)C1CC1 | C6H11N3O
